US06515011B2
Triphenylphosphine (0.344 g, 1.31 mmol) was added to a stirred solution of N-{1-[2-(azidomethyl)-4-chlorophenyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine (0.463 g, 1.31 mmol) and water (0.02 mL, 1.31 mmol) in THF (2.6 mL). The solution was stirred at ambient temperature for 2 h and the solvent was removed under reduced pressure. The residue was dissolved in MeOH (5 mL). One KOH pellet was added and the mixture was refluxed for 5 min. The solvent was removed under reduced pressure and the residue was partitioned between EtOAc and 1M HCl. The aqueous layer was basicified with 1M NaOH and the solution was extracted with diethyl ether. The organic phase was dried (Na2SO4) and reduced in vacuo and the residue was purified by column chromatography on silica (eluting with ammonium hydroxide/methanol/chloroform, 1:9:90) to give N-{1-[2-(aminomethyl)-4-chlorophenyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine (0.314 g) as an oil: MS 327.5 (M+1).

reactant | Triphenylphosphine | 1.31 mmol, 0.344 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-{1-[2-(azidomethyl)-4-chlorophenyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine | 1.31 mmol, 0.463 g | N(=[N+]=[N-])CC1=C(C=CC(=C1)Cl)C(C(F)F)NC1=CC=C(C=C1)OC | C16H15ClF2N4O
reactant | water | 1.31 mmol, 0.02 mL | O | H2O
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
product | N-{1-[2-(aminomethyl)-4-chlorophenyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine | 0.314 g | NCC1=C(C=CC(=C1)Cl)C(C(F)F)NC1=CC=C(C=C1)OC | C16H17ClF2N2O
